US05663053
2-(4-Octyloxyphenyl)-4,5-diphenylimidazole (2.5 g) was reacted with ethyl 8-bromooctanoate (2.96 g) in a method similar to Example 9. Column chromatography on silica gel eluted with a hexane:ethyl acetate gradient gave 1-(7-ethoxycarbonylheptyl)-2-[4-octyloxyphenyl]-4, 5-diphenylimidazole (3.48 g, 94%) as an oil.

reactant | 2-(4-Octyloxyphenyl)-4,5-diphenylimidazole | 2.5 g | C(CCCCCCC)OC1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H32N2O
reactant | ethyl 8-bromooctanoate | 2.96 g | BrCCCCCCCC(=O)OCC | C10H19BrO2
product | 1-(7-ethoxycarbonylheptyl)-2-[4-octyloxyphenyl]-4, 5-diphenylimidazole | 3.48 g, 94% | C(C)OC(=O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCCC | C39H50N2O3
